US04349674
N,N'-Dimethylcarbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride
2-Chloro-3-methylquinoxaline (3.572 g., 0.02 mole) was dissolved in 17 ml. of methanol, treated with Norit and filtered. The filtrate was added to 2.084 g. (0.02 mole) N,N'-dimethylthiourea dissolved in 25 ml. of methanol. The solution was stirred at reflux for 4 hours, cooled, and evaporated to a solid residue. The residue was triturated successively with ether and acetone, filtered and dried to give 3.554 g., 62.8% of product, m.p. 130°-131.5°.

reactant | 2-Chloro-3-methylquinoxaline | 0.02 mole, 3.572 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | Norit | C | CH4
reactant | N,N'-dimethylthiourea | 0.02 mole | CNC(=S)NC | C3H8N2S
solvent | methanol | CO | CH4O
product | N,N'-Dimethylcarbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride | Cl.CC=1C(=NC2=CC=CC=C2N1)SC(NC)=NC | InChI=1S/C12H14N4S.ClH/c1-8-11(17-12(13-2)14-3)16-10-7-5-4-6-9(10)15-8;/h4-7H,1-3H3,(H,13,14);1H
